US06426345B1
To a mixture of 3-nitroaniline (2.07 g) and triethylamine (2.3 ml) in 1,4-dioxane (40 ml) was added 2-naphthoyl chloride (3.00 g) and the mixture was stirred at room temperature for 30 minutes. Then the mixture was poured into aqueous sodium bicarbonate and extracted with ethyl acetate three times. The combined organic phase was washed with aqueous sodium bicarbonate and brine, dried over magnesium sulfate and concentrated. The resultant solid was collected and washed with isopropyl ether to give N-(3-nitrophenyl)-2-naphthalenecarboxamide (3.02 g).

reactant | 3-nitroaniline | 2.07 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | triethylamine | 2.3 ml | C(C)N(CC)CC | C6H15N
reactant | 2-naphthoyl chloride | 3.00 g | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,4-dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | N-(3-nitrophenyl)-2-naphthalenecarboxamide | 3.02 g | [N+](=O)([O-])C=1C=C(C=CC1)NC(=O)C1=CC2=CC=CC=C2C=C1 | C17H12N2O3
